US04299821
2.1 g (4 mmoles) of Z-Gln-His-HPro-NH2 are dissolved in 40 ml of acetic acid, 0.4 g of a 10% palladium-on-carbon catalyst are added, and hydrogen is bubbled through the mixture for one hour. The catalyst is filtered off, the filtrate is heated to 60°-70° C., maintained at this temperature for 30 minutes, and then evaporated in vacuo. The resulting crude product is subjected to ion exchange and purified as described in Step 5 of Example 15. 618 mg (56%) of Glp-His-HPro-NH2 are obtained; Rf4 =0.08, [α]D25 =-24.0° (c=1%, in methanol). Amino acid analysis: Glu: 0.97 (1.0), His: 1.00 (1.0), HPro: 0.91 (1.0).

reactant | Z-Gln-His-HPro-NH2 | 4 mmoles, 2.1 g | N([C@@H](CCC(N)=O)C(=O)N[C@@H](CC1=CNC=N1)C(=O)N1[C@H](C(=O)N)CCCC1)C(=O)OCC1=CC=CC=C1 | C25H33N7O6
solvent | acetic acid | 40 ml | C(C)(=O)O | C2H4O2
catalyst | palladium-on-carbon | [Pd] | Pd
product | Glp-His-HPro-NH2 | 618 mg, 56% | N1[C@@H](CCC1=O)C(=O)N[C@@H](CC1=CNC=N1)C(=O)N1[C@H](C(=O)N)CCCC1 | C17H24N6O4
